US08283353B2
4′-({4-[trans-4-(1,3,4-oxadiazol-2-ylmethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetic acid (0.45 g), tert-butyl hydrazinecarboxylate (0.13 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.19 g), 1-hydroxybenzotriazole (0.13 g) and N,N-dimethylformaldehyde (5 mL) was stirred at room temperature for 13 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, the residue was dissolved in trifluoroacetic acid (5 mL), and the mixture was stirred at room temperature for 1 hr. 1 M Aqueous sodium hydroxide solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was mixed with ethyl orthoformate (0.37 g), methanesulfonic acid (0.016 g) and tetrahydrofuran (7 mL), and the mixture was heated under reflux for 2 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.17 g, 37%).

reactant | [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetic acid | 0.45 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(=O)O)=O | C30H31N5O4
reactant | tert-butyl hydrazinecarboxylate | 0.13 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.19 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.13 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformaldehyde | 5 mL | CN(C)C=O | C3H7NO
product | 4′-({4-[trans-4-(1,3,4-oxadiazol-2-ylmethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.17 g, 37% | O1C(=NN=C1)CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C31H31N7O3
